US04652561
A mixture of 4.4 g of (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,2-b]-1,4-thiazepin-4(5H)-one, 2.0 g of potassium carbonate and 1.8 g of 2-diethylaminoethyl chloride in 100 mL ethyl acetate was stirred and heated at reflux for 2 hours then an additional 0.5 g of 2-diethylaminoethyl chloride was added four times at 2 hour intervals. The mixture was heated at reflux for a total of 12 hours, then cooled to room temperature and to the mixture ethyl acetate and water were added. The organic phase was separated, washed with brine and dried (magnesium sulfate). Removal of the solvent gave the product which after crystallization from ether afforded 4.9 g (87%) (±)-cis-5-[2-(diethylamino)ethyl]-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,2-b]-1,4-thiazepin-4(5H)-one, mp 124°-125°.

reactant | (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,2-b]-1,4-thiazepin-4(5H)-one | 4.4 g | O[C@H]1C(NC2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)=O | C20H17NO3S
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-diethylaminoethyl chloride | 1.8 g | C(C)N(CCCl)CC | C6H14ClN
reactant | 2-diethylaminoethyl chloride | 0.5 g | C(C)N(CCCl)CC | C6H14ClN
reactant | water | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (±)-cis-5-[2-(diethylamino)ethyl]-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,2-b]-1,4-thiazepin-4(5H)-one | 4.9 g, 87% | C(C)N(CCN1C2=C(S[C@H]([C@H](C1=O)O)C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)CC | C26H30N2O3S
